US07960567B2
Methyl 2-(3-chloro-4-(4-(2,4-dichlorophenylsulfonamido)-1-(2,4-dichlorophenylsulfonyl)-2-methyl-1H-benzo[d]imidazol-5-yloxy)phenyl)acetate (20.6).
Under an N2 atmosphere, methyl 2-(4-(4-amino-2-methyl-1H-benzo[d]imidazol-5-yloxy)-3-chlorophenyl)acetate (0.171 g, 0.495 mmol) was dissolved in pyridine (1.5 mL) and 2,4-dichlorobenzenesulfonyl chloride (0.267 g, 1.09 mmol) was added. The reaction was allowed to stir at room temperature for 3 h and then concentrated in vacuo. Flash column chromatography of the residue, eluting 0% to 50% ethyl acetate in hexanes, afforded the title compound. LC-MS ESI (pos.) m/z: 763.7 (M+H).

reactant | methyl 2-(4-(4-amino-2-methyl-1H-benzo[d]imidazol-5-yloxy)-3-chlorophenyl)acetate | 0.495 mmol, 0.171 g | NC1=C(C=CC=2NC(=NC21)C)OC2=C(C=C(C=C2)CC(=O)OC)Cl | C17H16ClN3O3
reactant | 2,4-dichlorobenzenesulfonyl chloride | 1.09 mmol, 0.267 g | ClC1=C(C=CC(=C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
solvent | pyridine | 1.5 mL | N1=CC=CC=C1 | C5H5N
product | Methyl 2-(3-chloro-4-(4-(2,4-dichlorophenylsulfonamido)-1-(2,4-dichlorophenylsulfonyl)-2-methyl-1H-benzo[d]imidazol-5-yloxy)phenyl)acetate | ClC=1C=C(C=CC1OC1=C(C2=C(N(C(=N2)C)S(=O)(=O)C2=C(C=C(C=C2)Cl)Cl)C=C1)NS(=O)(=O)C1=C(C=C(C=C1)Cl)Cl)CC(=O)OC | C29H20Cl5N3O7S2
